US09371282B2
[3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester (2.09 g, 6.19 mmol) is dissolved in DCM (100 mL) and treated with TFA (10 mL). Stirring is continued for 2 h. Volatiles are evaporated under reduced pressure and the resulting residue taken up twice with ethyl ether and evaporated under reduced pressure to give 3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-ylamine as trifluoroacetic salt crude (2.2 g).

reactant | [3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester | 6.19 mmol, 2.09 g | C(C)(C)(C)OC(NC1(COCC1)C1=NC2=C(N1)C=CC(=C2)Cl)=O | C16H20ClN3O3
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Chloro-1H-benzoimidazol-2-yl)-tetrahydro-furan-3-ylamine | ClC1=CC2=C(NC(=N2)C2(COCC2)N)C=C1 | C11H12ClN3O
